* Z:\mnt\design.r\spice\examples\4294.asc
M1 N003 N004 OUT OUT SUD40N10-25
C10 N006 0 47n
R6 N004 N006 3.32K
C6 OUT 0 10µ
C12 N005 0 .1µ
R5 N003 N005 8.25
Rcable N001 N002 12
R1 OUT N009 100K
R2 OUT N010 100K
D1 N002 N003 MURS120
Rload OUT 0 4K
Vpse N001 0 PWL(0 0 10m 7 160m 7 170m 5 325m 5 330m 8 360m 8 370m 6 400m 6 401m 17 415m 17 416m 6 420m 6 421m 17 425m 17 426m 6 430m 6 431m 17 435m 17 436m 6 440m 6 441m 17 445m 17 446m 6 450m 6 451m 17 455m 17 456m 6 460m 6 461m 57)
XU1 MP_01 0 N007 N008 0 N010 N009 OUT N004 N005 LT4294
Rcls N007 0 49.9
Rcls++ N008 0 118
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0.7
* Diode Bridge
.lib LT4294.sub
.backanno
.end
